US04379157
Preparation of 2-cyano-3-fluoro-N-isopropylbenzenesulphonamide
To a solution of 5.2 ml of isopropylamine in 50 ml of diethyl ether cooled in an ice bath, a solution of 4.4 g of 2-cyano-3-fluorobenzenesulphonylchloride in 50 ml of diethylether was added dropwise while stirring; reaction temperature approx. 5° C. After leaving to stand at room temperature for one hour, the reaction mixture was washed twice with ice water, dried on anhydrous Na2SO4, filtered and evaporated to dryness. The desired product was obtained in a yield of 4.16 g; melting-point 97°-105° C.

reactant | isopropylamine | 5.2 ml | C(C)(C)N | C3H9N
reactant | 2-cyano-3-fluorobenzenesulphonylchloride | 4.4 g | C(#N)C1=C(C=CC=C1F)S(=O)(=O)Cl | C7H3ClFNO2S
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | diethylether | 50 ml | C(C)OCC | C4H10O
product | 2-cyano-3-fluoro-N-isopropylbenzenesulphonamide | C(#N)C1=C(C=CC=C1F)S(=O)(=O)NC(C)C | C10H11FN2O2S
